US07547691B2
2-{5-Chloro-2-[3-(1-formylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide
Cyanomethyl formate (10 mg, 0.11 mmol) is added to a stirred suspension of 2-[5-chloro-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (50 mg, 0.11 mmol) in DMF (1 mL) and stirred for 18 hours to form a thick suspension. The mixture is diluted with ethyl acetate (1 mL) then filtered to give the title compound as a solid (41 mg). ES+(m/z) 498 (35Cl) and 500 (37Cl) [M+H].

reactant | Cyanomethyl formate | 0.11 mmol, 10 mg | C(=O)OCC#N | C3H3NO2
reactant | 2-[5-chloro-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 0.11 mmol, 50 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CCNCC2 | C24H28ClN5OS
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 2-{5-Chloro-2-[3-(1-formylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 41 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CCN(CC2)C=O | C25H28ClN5O2S
